US05629324
N-(3,3-diphenylpropionyl)-L-proline methylester (2.10 g, 6.23 mmol) was dissolved in DME (50 ml) and H2O (50 ml). Lithium hydroxide monohydrate (1.57 g, 37.39 mmol) was added and the mixture was stirred at ambient temperature for 2 hrs. The reaction mixture was concentrated to remove DME and the remaining aqueous layer was acidified with 1N HCl to pH 3. The acidic layer was washed with EtOAc (3×75 ml). Organic washes were combined, dried with Na2SO4, filtered and concentrated to give 1.92 g (94%) of N-(3,3-diphenylpropionyl)-L-proline.

reactant | N-(3,3-diphenylpropionyl)-L-proline methylester | 6.23 mmol, 2.10 g | COC([C@H]1N(CCC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C21H23NO3
reactant | Lithium hydroxide monohydrate | 37.39 mmol, 1.57 g | O.[OH-].[Li+]
solvent | DME | 50 ml | COCCOC | C4H10O2
solvent | H2O | 50 ml | O | H2O
product | N-(3,3-diphenylpropionyl)-L-proline | 1.92 g, 94% | C1(=CC=CC=C1)C(CC(=O)N1[C@H](C(=O)O)CCC1)C1=CC=CC=C1 | C20H21NO3
